US07163936B2
To a solution of 1-allyl 4-ethyl (2S)-2-methyl-3-oxo-1,4-piperidinedicarboxylate (1.40 g, 5.2 mmol) in methanol (27 ml) were added acetic acid (0.36 ml, 6.3 mmol) and sodium cyanoborohydride (0.39 g, 6.3 mmol), and the mixture was stirred at room temperature for 1 hour. The solvent was removed in vacuo and the residue was purified by silica gel chromatography to give 1-allyl 4-ethyl (2S)-3-hydroxy-2-methyl-1,4-piperidinedicarboxylate (1.36 g). A solution of this compound in dichloromethane (24 ml) was cooled at −30° C. and to the solution were added methanesulfonyl chloride (0.58 ml, 7.5 mmol), triethylamine (1.4 ml, 10.0 ml) and dimethylaminopyridine (61 mg, 0.50 mmol). The mixture was stirred at 0° C. for 20 minutes and poured into 1N hydrochloric acid and the solution was extracted three times with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the organic solvent was removed under reduced pressure. The residue was dissolved in toluene (10 ml) and dichloromethane (5 ml). To the solution was added DBU (2.3 ml, 15.4 mmol) and the solution was stirred at room temperature for 5 hours. To the reaction solution was added water and after separating the mixture with a separating funnel the aqueous layer was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the organic solvent was removed under reduced pressure. The residue was purified by silica gel chromatography to give 1-allyl 4-ethyl (6S)-6-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate (825 mg) with an intermediate, a methanesulfonylated compound (409 mg).

reactant | 1-allyl 4-ethyl (2S)-2-methyl-3-oxo-1,4-piperidinedicarboxylate | 5.2 mmol, 1.40 g | C[C@@H]1N(CCC(C1=O)C(=O)OCC)C(=O)OCC=C | C13H19NO5
reactant | acetic acid | 6.3 mmol, 0.36 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 6.3 mmol, 0.39 g | C(#N)[BH3-].[Na+]
solvent | methanol | 27 ml | CO | CH4O
product | 1-allyl 4-ethyl (2S)-3-hydroxy-2-methyl-1,4-piperidinedicarboxylate | 1.36 g | OC1[C@@H](N(CCC1C(=O)OCC)C(=O)OCC=C)C | C13H21NO5
